US05438140
Preparation of methyl 4-pyridiniumacetoacetate chloride
The title compound was prepared as described in Example 1 from pyridine and methyl 4-chloroacetoacetate in a yield of 74%.

reactant | methyl 4-chloroacetoacetate | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 4-pyridiniumacetoacetate chloride | yield of 74% | [Cl-].C(CC(=O)C)(=O)[O-].CC1=NC=C[CH2+]=C1.CC1=NC=C[CH2+]=C1 | InChI=1S/2C6H8N.C4H6O3.ClH/c2*1-6-4-2-3-5-7-6;1-3(5)2-4(6)7;/h2*3-5H,2H2,1H3;2H2,1H3,(H,6,7);1H/q2*+1;;/p-2
